US04146631
A solution of 2-benzyloxy-5-chloro-N-(tetrazol-5-yl)benzamide (2.7 g) in N-methylpyrrolid-2-one (50 ml) was hydrogenated at 25° C. and 5 kg/cm2 pressure using a 5% w/w palladium on charcoal catalyst. The reaction mixture was filtered and then evaporated under vacuum and the resulting solid was triturated with water and then dried. This solid was boiled with ethanol (50 ml) for 10 minutes and the undissolved material was filtered off and washed with ethanol and with diethyl ether to give 5-chloro-2-hydroxy-N-(tetrazol-5-yl)benzamide (1.5 g), m.p. 266°-269° C. (with decomposition).

reactant | 2-benzyloxy-5-chloro-N-(tetrazol-5-yl)benzamide | 2.7 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=NN=NN2)C=C(C=C1)Cl | C15H12ClN5O2
solvent | N-methylpyrrolid-2-one | 50 ml | CN1C(CCC1)=O | C5H9NO
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-chloro-2-hydroxy-N-(tetrazol-5-yl)benzamide | 1.5 g | ClC=1C=CC(=C(C(=O)NC2=NN=NN2)C1)O | C8H6ClN5O2
